**************************************************
* Manufacturer:       Wurth Elektronik
* Kinds:     Signal LEDs
* Matchcode:          WL-SBRW 
* Library Type:       LTspice
* Version:        rev20a       
* Date and Time   :       2020-03-14
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
*********
.subckt 1205_156125RB73000 1 2 3 4 
D1 3 2 red
.MODEL red D
+ (IS=753.41E-15
+ N=3.1516
+ RS=5.7925
+ IKF=480.73
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 4 1 blue
.MODEL blue D
+ (IS=269.92E-15
+ N=5
+ RS=12.502
+ IKF=3.5020
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
*********
.subckt 1205_156125RG73000 1 2 3 4 
D1 3 2 red
.MODEL red D
+ (IS=753.41E-15
+ N=3.1516
+ RS=5.7925
+ IKF=480.73
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 4 1 green
.MODEL green D
+ (IS=269.92E-15
+ N=5
+ RS=12.502
+ IKF=3.5020
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
*********
.subckt 1205_156125RV73000 1 2 3 4 
D1 3 2 red
.MODEL red D
+ (IS=753.41E-15
+ N=3.1516
+ RS=5.7925
+ IKF=480.73
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D1 4 1 bgreen
.MODEL bgreen D
+ (IS=10.010E-21
+ N=1.8557
+ RS=1.0000E-6
+ IKF=2.4347E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
*********
.subckt 1205_156125YV73000 1 2 3 4 
D1 3 2 yellow
.MODEL yellow D
+ (IS=753.41E-15
+ N=3.1516
+ RS=5.7925
+ IKF=480.73
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 4 1 bgreen
.MODEL bgreen D
+ (IS=10.010E-21
+ N=1.8557
+ RS=1.0000E-6
+ IKF=2.4347E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
*********
.subckt 1205_156125RG73000P 1 2 3 4 
D1 3 2 red
.MODEL red D
+ (IS=753.41E-15
+ N=3.1516
+ RS=5.7925
+ IKF=480.73
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 4 1 green
.MODEL green D
+ (IS=269.92E-15
+ N=5
+ RS=12.502
+ IKF=3.5020
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
*********
.subckt 1205_156125RV73000P 1 2 3 4 
D1 3 2 red
.MODEL red D
+ (IS=753.41E-15
+ N=3.1516
+ RS=5.7925
+ IKF=480.73
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D1 4 1 bgreen
.MODEL bgreen D
+ (IS=10.010E-21
+ N=1.8557
+ RS=1.0000E-6
+ IKF=2.4347E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
*********
.subckt 1205_156125YV73000P 1 2 3 4 
D1 3 2 yellow
.MODEL yellow D
+ (IS=753.41E-15
+ N=3.1516
+ RS=5.7925
+ IKF=480.73
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 4 1 bgreen
.MODEL bgreen D
+ (IS=10.010E-21
+ N=1.8557
+ RS=1.0000E-6
+ IKF=2.4347E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
*********























