***********
.subckt 0404_150044M155260 1 2 3 4
D1 1 2 red
.MODEL red D
+ (IS=10.010E-21
+ N=1.9114
+ RS=1.0000E-6
+ IKF=47.488E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 1 3 Green
.MODEL Green D
+ (IS=1.7671E-12
+ N=3.2550
+ RS=.77935
+ IKF=143.59E-9
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D3 1 4 Blue
.MODEL Blue D
+ (IS=829.92E-18
+ N=3.3919
+ RS=.5463
+ IKF=413.19E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends